US07838522B2
Intermediate 15: {4-[(4-methylpiperazin-1-yl)carbonyl]phenyl}methanol
To a solution of N-methyl piperazine (3.33 ml, 30.09 mmol) was added a solution of trimethylaluminium in heptane (15.04 ml, 30.09 mmol) and the mixture was stirred 10 min at room temperature. To this solution was added a solution of 4-(hydroxymethyl)benzoic acid methyl ester (1000 mg, 6.02 mmol) in DCE and the mixture was refluxed under inert atmosphere for 3 h. The mixture was diluted with DCM then water was added. The suspension was filtered through celite. The filtrate was washed with a solution 5% of NaHCO3 (2×) then water and brine. The organic layers were dried over MgSO4, evaporated and dried at 40° C. under vacuum to afford 307 mg (Y=21%) of the title compound as an oil. 1H NMR (DMSO-d6) δ 7.45-7.37 (m, 4H), 5.33 (t, J=5.6 Hz, 1H), 4.58 (br d, 2H), 3.77-3.50 (m, 4H), 2.46-2.30 (m, 4H), 2.26 (s, 3H).

reactant | N-methyl piperazine | 30.09 mmol, 3.33 ml | CN1CCNCC1 | C5H12N2
reactant | trimethylaluminium | C[Al](C)C
reactant | heptane | 30.09 mmol, 15.04 ml | CCCCCCC | C7H16
reactant | 4-(hydroxymethyl)benzoic acid methyl ester | 6.02 mmol, 1000 mg | COC(C1=CC=C(C=C1)CO)=O | C9H10O3
solvent | DCE | ClCCCl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | {4-[(4-methylpiperazin-1-yl)carbonyl]phenyl}methanol | CN1CCN(CC1)C(=O)C1=CC=C(C=C1)CO | C13H18N2O2
